US07867629B2
Dissolving 15 g (54 mmol) of 4-bromoacetophenone and 5.2 g (55 mmol) of 2-aminopyridine into 100 milliliter of ethanol, adding 7.0 g of sodium hydroxide, the resultant suspension was refluxed under heating for 6 hours. After completion of the reaction, resultant crystals were separated with filtration, washed with water and ethanol, thereby obtaining 12.5 g of 2-(4-bromo-phenyl)-imidazo [1,2-a] pyridine (yield: 85%).

reactant | 4-bromoacetophenone | 54 mmol, 15 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | 2-aminopyridine | 55 mmol, 5.2 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydroxide | 7.0 g | [OH-].[Na+]
solvent | ethanol | 100 milliliter | C(C)O | C2H6O
product | 2-(4-bromo-phenyl)-imidazo [1,2-a] pyridine | 12.5 g, yield: 85% | BrC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C13H9BrN2
